US08609656B2
(R)-2-Amino-N-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-3-methylbutylamide hydrochloride (Table 1, Compound No. 102)
The titled compound can be synthesized from 1-[4-(6-amino-purin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and tert-butoxycarbonyl-D-valine by using the same method as in Example 96.

reactant | 1-[4-(6-amino-purin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | tert-butoxycarbonyl-D-valine | C(C)(C)(C)OC(=O)N[C@H](C(C)C)C(=O)O | C10H19NO4
product | (R)-2-Amino-N-(9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl)-3-methylbutylamide hydrochloride | Cl.N[C@@H](C[N-]C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C(C)C | InChI=1S/C24H24ClF3N8O.ClH/c1-13(2)19(29)10-30-21-20-22(32-11-31-21)36(12-33-20)16-6-3-14(4-7-16)34-23(37)35-15-5-8-18(25)17(9-15)24(26,27)28;/h3-9,11-13,19H,10,29H2,1-2H3,(H3,30,31,32,34,35,37);1H/p-1/t19-;/m0./s1
